US09034900B2
Step 2: 3-fluoro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one
A mixture of 5-bromo-3-fluoro-1-methylpyridin-2-one (1 g, 4.9 mmol), 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (2.5 g, 9.8 mmol), KOAc (1.2 g, 12.3 mmol), and Pd(dppf)Cl2 (286 mg, 8%) was suspended in 1,4-dioxane (15 mL). After purging the reaction vial with nitrogen for 5 min, the capped vial was stirred at 80° C. for 1 h. The mixture was treated with water (70 ml) and extracted with EtOAc (3×40 ml). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a dark residue. The residue was purified by silica gel chromatography (12 g ISCO, gradient 05-75% EtOAc in hexanes) to give the title compound (682 mg, 55%) as a reddish brown solid.

reactant | 5-bromo-3-fluoro-1-methylpyridin-2-one | 4.9 mmol, 1 g | BrC=1C=C(C(N(C1)C)=O)F | C6H5BrFNO
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 9.8 mmol, 2.5 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 12.3 mmol, 1.2 g | CC(=O)[O-].[K+]
reactant | water | 70 ml | O | H2O
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 286 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-fluoro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one | 682 mg, 55% | FC=1C(N(C=C(C1)B1OC(C(O1)(C)C)(C)C)C)=O | C12H17BFNO3
